US06951879B2
In analogy to example 15.1, 5-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-yn-1-ol and methane sulfonyl chloride were converted to yield Methanesulfonic acid 5-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester as a light yellow oil, MS: 405 (M, 1Cl).

reactant | 5-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-yn-1-ol | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCO | C18H14ClNOS
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 5-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCOS(=O)(=O)C | C19H16ClNO3S2
